US07939526B2
Under a nitrogen atmosphere thiophenol (0.9 mL, 8.6 mmol) was added to a suspension of sodium hydride (0.19 g, 7.9 mmol) in DMF (25 mL). After hydrogen evolution had ceased, 1-[2-(3-chloropropoxy)ethyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (2.50 g, 7.2 mmol, prepared by the methods of Parts A-I) was added. The reaction mixture was stirred at ambient temperature for 1.5 hours at which time analysis by HPLC indicated that all of the starting material had been consumed. The reaction mixture was poured into water (250 mL) with rapid stirring. Sodium carbonated (˜0.5 g) was added to neutralize any excess thiolate and the pH was adjusted to ˜14 with 50% sodium hydroxide. The resulting tan precipitate was isolated by filtration and then recrystallized from acetonitrile to provide 1.95 g of 1-{2-[3-(phenylthio)propoxy]ethyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as a tan crystalline solid.

reactant | thiophenol | 8.6 mmol, 0.9 mL | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 7.9 mmol, 0.19 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-[2-(3-chloropropoxy)ethyl]-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | ClCCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C18H23ClN4O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-{2-[3-(phenylthio)propoxy]ethyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.95 g | C1(=CC=CC=C1)SCCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C24H28N4OS
